US08048878B2
Synthesis of (6R*,9aS*)-6-(4-methoxyphenyl)octahydroquinolizin-4-one
Platinum oxide (2 mg) was added to a solution of (6R*,9aS*)-6-(4-methoxyphenyl)-3,6,7,8,9,9a-hexahydroquinolizin-4-one (28 mg) in methanol (5 mL), and the reaction solution was stirred in a hydrogen stream at room temperature for 13 hours. The reaction solution was filtered through celite, and the filtrate was concentrated under reduced pressure to obtain 23 mg of the title compound. The property values of the compound are as follows.

reactant | (6R*,9aS*)-6-(4-methoxyphenyl)-3,6,7,8,9,9a-hexahydroquinolizin-4-one | 28 mg | COC1=CC=C(C=C1)[C@@H]1N2C(CC=C[C@@H]2CCC1)=O | C16H19NO2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 5 mL | CO | CH4O
catalyst | Platinum oxide | 2 mg | [Pt]=O
product | (6R*,9aS*)-6-(4-methoxyphenyl)octahydroquinolizin-4-one | 23 mg | COC1=CC=C(C=C1)[C@@H]1N2C(CCC[C@@H]2CCC1)=O | C16H21NO2
